US06121283
4'-Trifluoromethylbiphenyl-2-carboxylic acid-(1,2,3,4-tetrahydroisoquinolin-6-yl)-amide (II)
Methanesulfonyl chloride (0.085 mL) was added to a 0° C. solution of 4'-trifluoromethyl-biphenyl-2-carboxylic acid-[3-(2-hydroxy-ethyl)-4-hydroxymethyl-phenyl]-amide (214 mg, 0.51 mmol) and triethylamine (0.18 mL) in THF (8.5 mL). TLC showed complete reaction after 30 min. The contents were cooled to -78° C., excess ammonia was added, and the contents were stirred for 18 hrs at 25° C. The solvents were removed under vacuum, methylene chloride (10 mL) and aqueous 1N HCl were added and the contents were stirred for 1 hr. The phases were separated and the aqueous phase was rendered alkaline with aqueous sodium hydroxide to a pH of 12. The organic phase was extracted with methylene chloride (4×10 mL), the solvent removed under vacuum to give a white solid (108 mg) which was chromatographed on silica eluting with 5% methanol/methylene chloride with 0.5% ammonium hydroxide. The product was obtained as a white solid (40 mg, 20%).

reactant | Methanesulfonyl chloride | 0.085 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | 4'-trifluoromethyl-biphenyl-2-carboxylic acid-[3-(2-hydroxy-ethyl)-4-hydroxymethyl-phenyl]-amide | 0.51 mmol, 214 mg | OCCC=1C=C(C=CC1CO)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C23H20F3NO3
reactant | triethylamine | 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | ammonia | N | H3N
solvent | THF | 8.5 mL | C1CCOC1 | C4H8O
product | 4'-Trifluoromethylbiphenyl-2-carboxylic acid-(1,2,3,4-tetrahydroisoquinolin-6-yl)-amide | 108 mg | C1NCCC2=CC(=CC=C12)NC(=O)C=1C(=CC=CC1)C1=CC=C(C=C1)C(F)(F)F | C23H19F3N2O
